US06756378B2
A mixture of ethyl (E)-4-[2-(2-pyrrolidinyl)ethenyl]benzoate (434 mg, 1.77 mmol), pentafluorophenyl 4-[N′-(2-methylphenyl)ureido]phenylacetate (797 mg, 1.77 mmol), Et3N (0.37 mL, 2.66 mmol) in DMF (15 mL) was stirred for 15 hr. The mixture was diluted with EtOAc (300 mL). The solution was washed with brine (2×200 mL), dried over MgSO4, and evaporated off in vacuo. The residue was chromatographed on silica-gel with CHCl3-EtOAc (4:1) as eluent to give 906 mg (q.y.) ethyl (E)-4-[2-[1-[4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]ethenyl]benzoate as a brown oil. 1H-NMR (CDCl3) δ1.39 (3 H, t, J=7.3 Hz), 1.83-2.20 (4 H, series of m), 2.24 (3 H, d, J=4.9 Hz), 3.63 (4 H, m), 4.36 (2 H, q, J=7.3 Hz), 4.62 and 4.84 (total 1 H, m), 6.18-6.47 (2 H, m), 7.03-8.02 (14 H, series of m).

reactant | ethyl (E)-4-[2-(2-pyrrolidinyl)ethenyl]benzoate | 1.77 mmol, 434 mg | N1C(CCC1)/C=C/C1=CC=C(C(=O)OCC)C=C1 | C15H19NO2
reactant | pentafluorophenyl 4-[N′-(2-methylphenyl)ureido]phenylacetate | 1.77 mmol, 797 mg | CC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C22H15F5N2O3
reactant | Et3N | 2.66 mmol, 0.37 mL | CCN(CC)CC | C6H15N
solvent | DMF | 15 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | 300 mL | CCOC(=O)C | C4H8O2
product | ethyl (E)-4-[2-[1-[4-[N′-(2-methylphenyl)ureido]phenylacetyl]-2-pyrrolidinyl]ethenyl]benzoate | 906 mg | CC1=C(C=CC=C1)NC(NC1=CC=C(C=C1)CC(=O)N1C(CCC1)/C=C/C1=CC=C(C(=O)OCC)C=C1)=O | C31H33N3O4
